US06825188B2
b) Methyl (±)-8-[3-amino-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A mixture of methyl (±)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (1.4 g, 3 mmol), 10% palladium on charcoal (0.55 g, 0.6 mmol), and EtOH (20 mL) was stirred at RT under a balloon of hydrogen. After 18 hr, the mixture was filtered and the filtrate was concentrated to give the title compound (0.89 g, 99%) as a tan solid: MS (ES) m/e 321.4 (M+H)+.

reactant | methyl (±)-8-[3-(4-nitrobenzyloxycarbonylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 3 mmol, 1.4 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCOC2=CC3=C(CC(C(N(C3)C)=O)CC(=O)OC)C=C2)C=C1 | C25H29N3O8
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.6 mmol, 0.55 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | Methyl (±)-8-[3-amino-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.89 g, 99% | NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OC)C=C1 | C17H24N2O4
